US05614470
(a) Ethyl α-methoxyiminophenylacetate
1.4 g (16.8 mmol) of O-methylhydroxylamine hydrochloride and 1.16 g (8.4 mmol) of potassium carbonate were added to a solution of 0.50 g (2.8 mmol) of ethyl phenylglyoxylate in N,N-dimethylformamide, and the resulting mixture was stirred at 90° C. for 4 hours. At the end of this time, the reaction mixture was poured into water and extracted with ethyl acetate. The extract was washed with a saturated aqueous solution of sodium chloride and dried over anhydrous magnesium sulfate, and the solvent was distilled off. The residue was purified by column chromatography through silica gel, eluted with a stepwise gradient of ethyl acetate (10-30%) in hexane, to give 0.47 g (67% yield) of the less polar isomer of the title compound and 0.13 g (19% yield) of the more polar isomer of the title compound.

reactant | O-methylhydroxylamine hydrochloride | 16.8 mmol, 1.4 g | Cl.CON
reactant | potassium carbonate | 8.4 mmol, 1.16 g | C([O-])([O-])=O.[K+].[K+]
reactant | ethyl phenylglyoxylate | 2.8 mmol, 0.50 g | C1(=CC=CC=C1)C(C(=O)OCC)=O | C10H10O3
reactant | water | O | H2O
solvent | N,N-dimethylformamide | CN(C=O)C | C3H7NO
product | Ethyl α-methoxyiminophenylacetate | CON=C(C(=O)OCC)C1=CC=CC=C1 | C11H13NO3
